US04198514
In the same manner as Example 1-(b), 100 g of ethyl 3-(4-fluorophenyl)-2-cyanopropionate was reacted with ethyl bromoacetate to obtain ethyl 4-(4-fluorophenyl)-3-cyano-3-ethoxycarbonylbutyrate.

reactant | ethyl 3-(4-fluorophenyl)-2-cyanopropionate | 100 g | FC1=CC=C(C=C1)CC(C(=O)OCC)C#N | C12H12FNO2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | ethyl 4-(4-fluorophenyl)-3-cyano-3-ethoxycarbonylbutyrate | FC1=CC=C(C=C1)CC(CC(=O)OCC)(C(=O)OCC)C#N | C16H18FNO4
